US07691877B2
[2-Amino-6-(4-fluoro-pyrazol-1-yl)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester
(2-Amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (100mg, 0.285 mmol), 4-fluoropyrazole (24.5 mg, 0.285 mmol) and potassium carbonate (118 mg 0.855 mmol) were stirred together in 5 mL of acetonitrile, under nitrogen. Heated the reaction to reflux for 3 hours and then allowed to cool to ambient temperature over night.

reactant | (2-Amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 0.285 mmol, 100mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Cl)N)[N+](=O)[O-])=O | C15H15ClN4O4
reactant | 4-fluoropyrazole | 0.285 mmol, 24.5 mg | FC=1C=NNC1 | C3H3FN2
reactant | potassium carbonate | 0.855 mmol, 118 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | [2-Amino-6-(4-fluoro-pyrazol-1-yl)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)N1N=CC(=C1)F)N)[N+](=O)[O-])=O | C18H17FN6O4
